US08975254B2
b) 3-(morpholinomethyl)-1H-pyrazole-5-carboxylic acid
The title compound was prepared from ethyl 3-(morpholinomethyl)-1H-pyrazole-5-carboxylate (0.138 g, 0.57 mmol) and sodium hydroxide solution (2 mL) using the method of Example 225(b). Yield 0.119 g. 1H NMR (400 MHz; MeOD): δ 3.22 (m, 2H), 3.46 (m, 2H), 3.78 (m, 2H), 4.05 (m, 2H), 4.43 (s, 2H), 7.05 (s, 1H).

reactant | ethyl 3-(morpholinomethyl)-1H-pyrazole-5-carboxylate | 0.57 mmol, 0.138 g | O1CCN(CC1)CC1=NNC(=C1)C(=O)OCC | C11H17N3O3
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
product | 3-(morpholinomethyl)-1H-pyrazole-5-carboxylic acid | O1CCN(CC1)CC1=NNC(=C1)C(=O)O | C9H13N3O3
